US05854232
N-Adamantan-1-yl-3-oxo-2,2-bis-pyridin-4-ylmethyl-butyramide
To a solution of N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester (750 mg, 1.68 mmol) chilled to 5 ° C., cuprous bromide (10.0 mg) and a 3.0M solution of methyl magnesium bromide in diethyl ether (1.67 ml, 5.03 mmol of methyl magnesium bromide) was added. After 18 hours stirring at ambient temperature, a second 1.67 ml portion of 3.0M methyl magnesium bromide in diethyl ether was added. Three hours thereafter, a final 1.67 ml portion of 3.0M methyl magnesium bromide was added. After 18 hours of additional stirring at ambient temperature, the reaction was quenched by addition of 15 ml of ice water containing 250 μl of concentrated sulfuric acid. The mixture was then extracted with three 50 ml portions of methylene chloride. The combined extracts were dried (anhydrous sodium sulfate) and concentrated in vacuo to an oil (520 mg). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with methanol/methylene chloride=4:96 in volume) afforded the title compound (free base) as a colorless oil (236 mg).

reactant | N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester | 1.68 mmol, 750 mg | COC(C(C(=O)NC12CC3CC(CC(C1)C3)C2)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | methyl magnesium bromide | 3.0M | C[Mg]Br
reactant | methyl magnesium bromide | 3.0M | C[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 5.03 mmol, 1.67 ml | C(C)OCC | C4H10O
product | N-Adamantan-1-yl-3-oxo-2,2-bis-pyridin-4-ylmethyl-butyramide | 236 mg | C12(CC3CC(CC(C1)C3)C2)NC(C(C(C)=O)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O2
